US07749997B2
To an ice-water cooled solution of 4-phenylbicyclo[2.2.2]octane-1-carboxylic acid (479 mg, 2.07 mmol) in DCM (20 mL) was added DMF (2-3 drops) followed by oxalyl chloride (0.20 mL, 2.14 mmol). The reaction mixture was allowed to warm to ambient temperature overnight and then solvent was evaporated under reduced pressure to leave crude 4-phenylbicyclo[2.2.2]octane-1-carbonyl chloride which was used directly in the next stage.

reactant | 4-phenylbicyclo[2.2.2]octane-1-carboxylic acid | 2.07 mmol, 479 mg | C1(=CC=CC=C1)C12CCC(CC1)(CC2)C(=O)O | C15H18O2
reactant | oxalyl chloride | 2.14 mmol, 0.20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2-3 drops | CN(C)C=O | C3H7NO
product | 4-phenylbicyclo[2.2.2]octane-1-carbonyl chloride | C1(=CC=CC=C1)C12CCC(CC1)(CC2)C(=O)Cl | C15H17ClO
